US09193728B2
Preparation of 3-(4-fluorophenyl)-5-methylindoline
To the cooled solution of 3-(4-fluorophenyl)-5-methyl-1H-indole (2 g, 0.0088 mol) in TFA (60 mL) was added triethylsilane (6 mL) dropwise at 0° C., and the reaction mixture was stirred for 4 h at RT. After completion of reaction (monitored by TLC), solvent was removed under reduced pressure, the residue treated with saturated sodium bicarbonate solution, and extracted with EtOAc (3×150 mL). The organic layer was dried over anhydrous sodium sulfate, concentrated under reduced pressure, and the product purified by column chromatography (10% EtOAc:hexane in silica 100-200 mesh, diameter of column—5.0 cm, height of silica—approx. 5 inch) to provide the desired compound as a yellow colored oil (1.2 g, 60% yield).

reactant | 3-(4-fluorophenyl)-5-methyl-1H-indole | 0.0088 mol, 2 g | FC1=CC=C(C=C1)C1=CNC2=CC=C(C=C12)C | C15H12FN
reactant | triethylsilane | 6 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 60 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-(4-fluorophenyl)-5-methylindoline | 1.2 g, 60% yield | FC1=CC=C(C=C1)C1CNC2=CC=C(C=C12)C | C15H14FN
